US05235103
To a mixture of 3.2 g of 2-amino-7-hydroxytetralin hydrobromide (PREPARATION Ic), 2.4 g of 4-chloromandelic acid and 5.2 g of benzotriazolyl-N-oxytris-(dimethylamino) phosphonium hexafluorophosphate in 50 ml of methylene chloride, there is added 3.6 ml of triethylamine. The solution obtained is left under stirring at room temperature for 3 hours, then a saturated sodium chloride solution is added and the mixture is stirred for 30 minutes. The organic phase that separates is evaporated to dryness and an oil is obtained that is dissolved in 200 ml of ethyl acetate. The solution thus obtained is washed twice with 40 ml of a 2N hydrochloric acid, twice with a saturated sodium bicarbonate solution and, then, with a saturated sodium chloride solution. The solution is dried over sodium sulfate, filtered and evaporated to dryness. The oil so obtained is chromatogrpahed (elution with a 1/1 mixture of ethyl acetate/cyclohexane) and all of the fractions are collected. An amount of 2.7 g (63%) of N-(7-hydroxy-1,2,3,4-tetrahydronaphth-2-yl)-4-chloromandelamide is obtained as a diastereoisomeric mixture; m.p. about 170° C. (large interval of melting), pure enough for a further reaction. In this mixture, the (RS,SR) and (RR,SS) diastereoisomers are well detectable by chromatography; they are easily separable and obtainable in pure form.

reactant | 2-amino-7-hydroxytetralin hydrobromide | 3.2 g | Br.NC1CC2=CC(=CC=C2CC1)O
reactant | 4-chloromandelic acid | 2.4 g | ClC1=CC=C(C(C(=O)O)O)C=C1 | C8H7ClO3
reactant | triethylamine | 3.6 ml | C(C)N(CC)CC | C6H15N
reactant | sodium chloride | [Cl-].[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | N-(7-hydroxy-1,2,3,4-tetrahydronaphth-2-yl)-4-chloromandelamide | 2.7 g, 63% | OC1=CC=C2CCC(CC2=C1)NC(C(O)C1=CC=C(C=C1)Cl)=O | C18H18ClNO3
